nmos_plot
.include TSMC_180nm.txt
.param SUPPLY=1.8
.param LAMBDA=0.09u

.param width_N=0.24u

M1 nd ng gnd gnd CMOSN W={width_N} L={2*LAMBDA}
+ AS={5*width_N*LAMBDA}
+ PS={10*LAMBDA+2*width_N}
+ AD={5*width_N*LAMBDA}
+ PD={10*LAMBDA+2*width_N}

Vds nd gnd {SUPPLY}
Vgs ng gnd {SUPPLY}

.dc Vds 0 1.8 0.01 Vgs 0 1.8 0.3

.control
run
.plot -i(Vds) vs Vds
set hcopypscolor = 1 $ White background
hardcopy ques1_b.eps -Vds#branch
.endc

.end